* source AREHMANSPICELABS
V_V1         N00335 0 15
V_V2         0 N00350 15
R_R1         N00254 N00261  10k TC=0,0 
R_R2         N00261 N00275  5k TC=0,0 
X_U1A         0 N00261 N00335 N00350 N00275 OP-471A
V_V3         N00254 0  
+SIN 0 1 1000 0 0 0
