* source AREHMANSPICELABS
X_U1A         0 N00315 N00354 N00347 N00335 OP-471A
V_V1         N00311 0  
+PULSE -1 1 1m 1u 1u 1.08m 2m
R_R1         N00311 N00315  2.5k TC=0,0 
C_C1         N00315 N00335  100n  TC=0,0 
V_V2         N00354 0 15
V_V3         0 N00347 15
