* source AREHMANSPICELABS
V_V1         N00461 0 DC 0Vdc AC 1Vac 
R_R1         N00461 N00465  3183.1 TC=0,0 
R_R2         N00465 N00469  3183.1 TC=0,0 
R_R3         N00526 N00381  6366.2 TC=0,0 
C_C2         0 N00469  0.05u  TC=0,0 
C_C1         N00465 N00381  0.05u  TC=0,0 
V_V2         N00322 0 15
V_V3         0 N00329 15
X_U1A         N00469 N00526 N00322 N00329 N00381 OP-471A
