* source AREHMANSPICELABS
X_U1A         N01060 N01106 N01010 N01020 N01030 OP-471A
R_R3         N01106 N01030  1591.5 TC=0,0 
V_V2         N01010 0 15
V_V3         0 N01020 15
V_V1         N01847 0 DC 0Vdc AC 1Vac 
C_C1         N01847 N01056  0.05u  TC=0,0 
C_C2         N01056 N01060  0.05u  TC=0,0 
R_R2         N01056 N01030  3183.1 TC=0,0 
R_R1         N01060 0  3183.1 TC=0,0 
