* source AREHMANSPICELABS
V_V1         N01945 0 15
X_U1A         0 N01909 N01945 N01959 N01919 OP-471A
R_R1         N01899 N01909  1k TC=0,0 
R_R2         N01909 N01919  170k TC=0,0 
V_V2         0 N01959 15
R_R4         N02454 N02464  5k TC=0,0 
V_V5         0 N02504 15
X_U1B         0 N02454 N02490 N02504 N02464 OP-471A
R_R3         N01919 N02454  1k TC=0,0 
V_V4         N02490 0 15
R_R10         N03889 0  53051.65 TC=0,0 
R_R8         N03925 N03871  26525.8 TC=0,0 
R_R7         N03202 N03126  7957.75 TC=0,0 
V_V8         N03106 0 15
V_V11         N03851 0 15
C_C1         N03152 N03126  100n  TC=0,0 
C_C2         0 N03156  100n  TC=0,0 
V_V9         0 N03116 15
V_V12         0 N03861 15
R_R5         N02464 N03152  3978.9 TC=0,0 
R_R9         N03885 N03871  53051.65 TC=0,0 
X_U1C         N03156 N03202 N03106 N03116 N03126 OP-471A
C_C4         N03885 N03889  100n  TC=0,0 
X_U1D         N03889 N03925 N03851 N03861 N03871 OP-471A
R_R6         N03152 N03156  3978.9 TC=0,0 
C_C3         N03126 N03885  100n  TC=0,0 
X_U2A         N03871 N04462 N04430 N04438 N04450 OP-471A
V_V13         N04430 0 15
R_R11         N04462 N04450  13k TC=0,0 
R_R12         0 N04462  1 TC=0,0 
V_V14         0 N04438 15
V_V16         0 N05026 10
R_R16         N04962 N04990  5k TC=0,0 
R_R13         N04450 N04962  28.6k TC=0,0 
X_U2B         N05018 N04962 N05038 N05026 N04990 OP-471A
R_R17         0 N05018  5k TC=0,0 
V_V15         N05038 0 10
R_R15         N04950 N04962  28.6k TC=0,0 
V_V18         0 N04950 13.9
V_V19         N01899 0  AC 0
+SIN 0 3m 200 0 0 0
